US04642308
The procedure is similar to that described in Example 1, but starting with 3-methoxybenzoic acid (12.17 g), N,N'-carbonyldiimidazole (12.9 g) and 2-amino-7-chloro-1,8-naphthyridine (8.9 g). The product produced by precipitation in water (15.5 g; m.p. 176° C.) is dissolved in boiling 2-propanol (500 cc). After 2 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with 2-propanol (3×25 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-chloro-1,8-naphthyridin-2-yl)-3-methoxybenzamide (11.2 g) is produced, m.p. 178° C.

reactant | 3-methoxybenzoic acid | 12.17 g | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | 2-amino-7-chloro-1,8-naphthyridine | 8.9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 2-propanol | 500 cc | CC(C)O | C3H8O
solvent | water | 15.5 g | O | H2O
product | N-(7-chloro-1,8-naphthyridin-2-yl)-3-methoxybenzamide | 11.2 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)OC)=O | C16H12ClN3O2
